US06506760B1
Preparation of 1-Acetyl-6-(acetoxymethyl)indazole (4-4)
To a suspension of 3-(hydroxymethyl)-6-methyl-N-(methylcarbonyl)aniline (10.0 g, 45 mmol) (4-3) and potassium acetate (8.6 g, 88 mmol) in chloroform (300 mL), was added acetic anhydride (8.3 mL, 88 mmol), isoamylnitrite (35 mL, 300 mmol) and 18-crown-6 (1.5 g, 0.6 mmol) at room temperature. The reaction mixture was heated at its reflux temperature for 28 hours. The reaction mixture was diluted with methylene chloride (600 mL) and washed with saturated NaHCO3 aqueous solution (300 mL), water (300 mL) and brine (50 mL). After drying (Na2SO4), the organic solvent was removed under vacuum to give a yellow oil which was purified by a flash chromatography on silica gel (85:15 hexane-ethyl acetate) to yield the title compound (10.01 g, 95%). TLC Rf 0.47 (70:30 of hexane-ethyl acetate); MS (electrospray) 233 (M+1); 1H N MR (CDCl3) δ 2.10 (s, 3H), 2.78 (s, 3H), 5.27 (s, 2H), 7.36 (d, 1H, J=8.0 Hz), 7.73 (d, 1H, J=8.0 Hz), 8.12 (s, 1H), 8.47 (s, 1H).

reactant | 3-(hydroxymethyl)-6-methyl-N-(methylcarbonyl)aniline | 45 mmol, 10.0 g | OCC=1C=C(NC(=O)C)C(=CC1)C | C10H13NO2
reactant | potassium acetate | 88 mmol, 8.6 g | C(C)(=O)[O-].[K+]
reactant | acetic anhydride | 88 mmol, 8.3 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | isoamylnitrite | 300 mmol, 35 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | 18-crown-6 | 0.6 mmol, 1.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-6-(acetoxymethyl)indazole | 10.01 g, 95% | C(C)(=O)N1N=CC2=CC=C(C=C12)COC(C)=O | C12H12N2O3
